US03947456
55 G. of rac.-α-{[(3-methoxybenzyl)amino]methyl}-3-nitrobenzyl alcohol hydrochloride and 165 g. of polyphosphoric acid (84.1% P2O5) are heated to 100° for 45 minutes. After the addition of a little ice and ethyl acetate the mixture is made alkaline with sodium carbonate and extracted. The ethyl acetate extract (46 g.) is chromatographed on 3.7 kg. of silica gel. With ether-acetone-diethylamine 19:1:1 there are eluted two uniform main fractions of 7.0 g. and 22.2 g. After acidification with ethanolic hydrochloric acid, crystallization and recrystallization from methanol-ether, from the first fraction there is obtained rac.-1,2,3,4-tetrahydro-5-methoxy-4-(3-nitrophenyl)isoquinoline hydrochloride, m.p. 217°-219° and from the second rac.-1,2,3,4-tetrahydro-7-methoxy-4-(3-nitrophenyl)isoquinoline hydrochloride, m.p. 253°-255°.

reactant | rac.-α-{[(3-methoxybenzyl)amino]methyl}-3-nitrobenzyl alcohol hydrochloride | Cl.COC=1C=C(CNCC(C2=CC(=CC=C2)[N+](=O)[O-])O)C=CC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | rac.-1,2,3,4-tetrahydro-5-methoxy-4-(3-nitrophenyl)isoquinoline hydrochloride | Cl.COC1=C2C(CNCC2=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | InChI=1S/C16H16N2O3.ClH/c1-21-15-7-3-5-12-9-17-10-14(16(12)15)11-4-2-6-13(8-11)18(19)20;/h2-8,14,17H,9-10H2,1H3;1H
